US04618697
A mixture of 2-bromo-1,1-dimethoxy-1-(6-methoxy-2-naphthyl)-propane (3.39 g; 10 mmol), calcium carbonate (1 g; 10 mmol), N,N-dimethylformamide (12 g) and of water (8 g) is heated at reflux under stirring for 7 h. The mixture is cooled to 25° C., added with diethyl ether (100 ml) and the insoluble is filtered. The resulting solution is washed with water and the solvent is removed in vacuo. The residue is added with 30% sodium hydroxide aqueous solution (10 ml) and with methanol (30 ml). The reaction mixture is refluxed for 2 h and then cooled to room temperature, the mixture is diluted with water (100 ml) and extracted with diethyl ether (2×30 ml). The aqueous phase is acidified with concentrated hydrochloric acid, the insoluble is filtered, washed with water and dried at 80° C. under vacuum to give 2-(6-methoxy-2-naphthyl)-propionic acid (2.18 g; 9.5 mmol; yield 95 %), m.p. 154°-155° C.

reactant | 2-bromo-1,1-dimethoxy-1-(6-methoxy-2-naphthyl)-propane | 10 mmol, 3.39 g | BrC(C(C1=CC2=CC=C(C=C2C=C1)OC)(OC)OC)C | C16H19BrO3
reactant | calcium carbonate | 10 mmol, 1 g | C([O-])([O-])=O.[Ca+2]
reactant | N,N-dimethylformamide | 12 g | CN(C=O)C | C3H7NO
reactant | water | 8 g | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(6-methoxy-2-naphthyl)-propionic acid | 9.5 mmol, 2.18 g, yield 95 % | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
